US09078442B2
NCS (850 mg, 6.37 mmol) was added to a solution of 3,5-difluorobenzaldehyde oxime (1.00 g, 6.37 mmol) in DMF (60 ml), and the mixture was stirred at 40° C. for 1 h. Heating was then switched off, and ethyl 2-cyanoacrylate (1.20 g, 9.55 mmol) and NaHCO3 (561 mg, 6.68 mmol) were added. The mixture was stirred at RT for 2 h, and water (400 ml) was then added. The mixture was extracted with MTBE (3×50 ml), and the combined organic phases were washed with dilute sulfuric acid (0.5 M, ml), dried over Na2SO4 and concentrated. Chromatography of the residue on silica gel using the mobile phase heptane/EtOAc gave 810 mg of slightly contaminated ethyl 5-cyano-3-(3,5-difluorophenyl)-4,5-dihydro-1,2-oxazole-5-carboxylate, which was used without further purification.

reactant | NCS | 6.37 mmol, 850 mg | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | 3,5-difluorobenzaldehyde oxime | 6.37 mmol, 1.00 g | FC=1C=C(C=NO)C=C(C1)F | C7H5F2NO
reactant | ethyl 2-cyanoacrylate | 9.55 mmol, 1.20 g | C(#N)C(C(=O)OCC)=C | C6H7NO2
reactant | NaHCO3 | 6.68 mmol, 561 mg | C(=O)(O)[O-].[Na+]
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
solvent | water | 400 ml | O | H2O
product | ethyl 5-cyano-3-(3,5-difluorophenyl)-4,5-dihydro-1,2-oxazole-5-carboxylate | C(#N)C1(CC(=NO1)C1=CC(=CC(=C1)F)F)C(=O)OCC | C13H10F2N2O3
